US06380215B1
To a solution of CBr4 (3.11 g) in dichloromethane (15 ml) was added dropwise a solution of triphenylphosphine (4.92 g) in dichloromethane (15 ml) at 0° C. After stirring for 10 minutes a solution of (S)-N-tert-butyldimethylsilyl-4-formyl-2-azetidinone (1.0 g) in dichloromethane (10 ml) was added dropwise at 0° C. and stirred for 20 minutes. The mixture was poured into saturated aqueous NaHCO3 solution and extracted with dichloromethane. The extract was washed with water, dried over MgSO4 and evaporated in vacuo. The residue was purified by chromatography on silica gel eluting with (diethyl ether:n-hexane=1:5) to give (S)-N-tert-butyldimethylsilyl-4-(2,2dibromoethenyl)-2-azetidinone (0.83 g) as a pale yellow oil.

reactant | CBr4 | 3.11 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 4.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (S)-N-tert-butyldimethylsilyl-4-formyl-2-azetidinone | 1.0 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C=O)=O | C10H19NO2Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-N-tert-butyldimethylsilyl-4-(2,2dibromoethenyl)-2-azetidinone | 0.83 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C=C(Br)Br)=O | C11H19Br2NOSi
